US07964610B2
Alternate Method: To a stirred solution of 4-dimethylaminopyridine (1.232 g, 0.010 mol, acylation catalyst) in tetrahydrofuran (1.5 L, THE) was added buprenorphine free base (93.534 g, 0.20 mol) followed by adipic acid (239.952 g, 1.64 mol). The suspension was stirred for 20 minutes and dicyclohexylcarbondiimide (45.409 g, 0.22 mol) was added over approx 30 minutes whilst maintaining the internal temperature between 16-21° C. with cold water cooling. Stirring was continued overnight. The insoluble precipitate (mostly dicyclohexylurea) was removed by filtration under vacuum and washed with more THF. Solvent was removed under vacuum from the filtrate (960 ml recovered). The precipitate (mainly adipic acid) was removed by filtration and washed with a little more THF and dried in air. The combined filtrates were stirred at room temperature and treated with concentrated hydrochloric acid (20.606 g, 0.20 mol). The resulting precipitate was removed by filtration, washed with THF and dried in air. This crude product was crystallized from ethanol/dichloromethane with a hot filtration and removal of solvents under vacuum to concentrate the suspension. The solid was removed by filtration, washed with ethanol and dried to give buprenorphine hemiadipate hydrochloride (87.525 g). The identity of the material was confirmed by full assignment of the 1H and 13C NMR spectrum and by comparison of these spectra with the NMR spectra of buprenorphine hydrochloride.

reactant | buprenorphine | 0.20 mol, 93.534 g | C[C@]([C@H]1C[C@@]23CC[C@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)O)O4)CC7CC7)OC)(C(C)(C)C)O | C29H41NO4
reactant | adipic acid | 1.64 mol, 239.952 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | water | O | H2O
reactant | hydrochloric acid | 0.20 mol, 20.606 g | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.010 mol, 1.232 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | buprenorphine hemiadipate hydrochloride | 87.525 g | C[C@]([C@H]1C[C@@]23CC[C@@]1([C@H]4[C@@]25CCN([C@@H]3CC6=C5C(=C(C=C6)OC(=O)CCCCC(=O)O)O4)CC7CC7)OC)(C(C)(C)C)O.Cl | InChI=1S/C35H49NO7.ClH/c1-31(2,3)32(4,40)24-19-33-14-15-35(24,41-5)30-34(33)16-17-36(20-21-10-11-21)25(33)18-22-12-13-23(29(43-30)28(22)34)42-27(39)9-7-6-8-26(37)38;/h12-13,21,24-25,30,40H,6-11,14-20H2,1-5H3,(H,37,38);1H/t24-,25-,30-,32+,33-,34+,35-;/m1./s1
